US07312343B2
((S)-2,2-Dimethoxy-1-methyl-ethyl)-methyl-amine hydrochloride
13.1 g Crude Boc-N-methyl-alaninal (70 mmol) were dissolved in 100 ml methanol and cooled to ˜15° C. A solution of 11 g (140 mmol) acetyl chloride in 30 ml methanol was added all at once and the yellowish solution was stirred at RT for 1 h (gas evolution). 67.52 g Trimethyl orthoformate (630 mmol) were now added and the reaction mixture was stirred at RT over night (18 h). The solvent and the excess of the orthoester were removed by rotary evaporation (40° C./≧10 mbar) and the resulting 11.9 (100%) beige, crystalline residue was crystallized from 120 ml hot isopropyl acetate yielding after stirring at −20° C. for 17 h 8.4 g (71%) beige product, [α]D=10.8 (CHCl3; c=1). 1H-NMR:

reactant | Boc-N-methyl-alaninal | 70 mmol, 13.1 g | C(=O)(OC(C)(C)C)N([C@@H](C)C=O)C | C9H17NO3
reactant | acetyl chloride | 140 mmol, 11 g | C(C)(=O)Cl | C2H3ClO
reactant | Trimethyl orthoformate | 630 mmol, 67.52 g | C(OC)(OC)OC | C4H10O3
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | ((S)-2,2-Dimethoxy-1-methyl-ethyl)-methyl-amine hydrochloride | Cl.COC([C@H](C)NC)OC | InChI=1S/C6H15NO2.ClH/c1-5(7-2)6(8-3)9-4;/h5-7H,1-4H3;1H/t5-;/m0./s1
